### PR TITLE
feat(QuantumInfo): prove qRelativeEnt_joint_convexity

### PR DESCRIPTION
**Pull request by phaynes**
Closes the `@[sorryful]` stub for joint convexity of the Umegaki quantum relative entropy.

For `ρ₁ ρ₂ σ₁ σ₂ : MState d` and `p : Prob`, this proves:

    𝐃(p [ρ₁ ↔ ρ₂]‖p [σ₁ ↔ σ₂])
      ≤ p * 𝐃(ρ₁‖σ₁) + (1 - p) * 𝐃(ρ₂‖σ₂)

The theorem statement matches the original stub; only the proof is new.

## Proof idea

The proof uses the existing joint convexity of the sandwiched trace functional `Q̃_α`
for `α > 1`, then passes to the `α → 1⁺` limit using
`sandwichedRelRentropy.continuousOn`.

The only new analytic estimate is the private helper lemma

    sandwichedTraceFunctional_sub_one_div_eventually_le

which gives an eventual upper bound for

    (Q̃_α(ρ‖σ) - 1) / (α - 1)

by a real-valued majorant tending to `𝐃(ρ‖σ).toReal`. This avoids proving
differentiability at `α = 1`; continuity of `D̃_α`, `log x ≤ x - 1`, and the standard
bound on `exp x - 1 - x` are enough.

The main theorem then handles:

1. `p = 0` and `p = 1` (each closes by `simp`, via `mix_zero` / `mix_one`);
2. support-failure cases, where the right-hand side is `⊤` (via `qRelativeEnt_eq_top_iff`);
3. the finite-support case, using joint convexity of `Q̃_α`
   (`sandwichedTraceFunctional_mix_le`, the binary specialisation);
4. the limit passage `α → 1⁺` (`sandwichedRelRentropy_tendsto_qRelativeEnt`).

The mixture bookkeeping (`Fin 2` weighted sums, kernel inclusion) and the
`ENNReal.ofReal` convex-combination identity are each factored into their own small
`private` lemma so the main theorem reads as the four steps above.

## Declarations added / removed

| Declaration | File | Notes |
|---|---|---|
| removed `@[sorryful] qRelativeEnt_joint_convexity` | `QuantumInfo/Entropy/Relative.lean` | removes the old stub |
| `Mixable.mix_one` | `QuantumInfo/ClassicalInfo/Prob.lean` | `@[simp]`; the `p = 1` partner of the existing `@[simp] mix_zero` |
| `qRelativeEnt_ne_top_iff`, `qRelativeEnt_eq_top_iff` | `QuantumInfo/Entropy/Relative.lean` | finiteness ⇔ support condition; small API next to `qRelativeEnt_ker` |
| `sandwichedRelRentropy_tendsto_qRelativeEnt` | `QuantumInfo/Entropy/DPI.lean` | private; `D̃_α → 𝐃` as `α → 1⁺` |
| `sandwichedTraceFunctional_sub_one_div_eventually_le` | `QuantumInfo/Entropy/DPI.lean` | private; the majorant estimate |
| `mix_M_eq_weighted_sum`, `ker_mix_le`, `sandwichedTraceFunctional_mix_le` | `QuantumInfo/Entropy/DPI.lean` | private; binary-mixture plumbing over `Fin 2` |
| `ofReal_prob_mix_toReal` | `QuantumInfo/Entropy/DPI.lean` | private; `ENNReal.ofReal` of a `Prob`-weighted combination |
| `qRelativeEnt_joint_convexity` | `QuantumInfo/Entropy/DPI.lean` | proves the old theorem statement |

## Placement

The stub lived in `Relative.lean`, but the proof needs the `Q̃_α` machinery already in
`DPI.lean`. Since `DPI.lean` imports `Relative.lean`, proving this in `Relative.lean`
would create an import cycle. I therefore placed the proof in `DPI.lean`.

## Reviewer map

Suggested review order:

1. `Prob.lean`: `Mixable.mix_one` (mirrors `mix_zero` directly above it).
2. `Relative.lean`: confirm the old `@[sorryful]` stub was removed, and skim the two
   `qRelativeEnt_*_top_iff` finiteness lemmas.
3. `DPI.lean`: the continuity lemma and the private majorant lemma
   `sandwichedTraceFunctional_sub_one_div_eventually_le`.
4. `DPI.lean`: the three mixture lemmas and the `ofReal` identity (mechanical plumbing).
5. `DPI.lean`: review `qRelativeEnt_joint_convexity`, especially:
   - degenerate weights;
   - `⊤` support-failure cases;
   - pointwise `α > 1` bound;
   - final `le_of_tendsto_of_tendsto` step.

## Checks

Run:

```bash
lake build QuantumInfo.Entropy.DPI
echo 'import QuantumInfo.Entropy.DPI
#print axioms qRelativeEnt_joint_convexity' > /tmp/qrelent_axioms.lean
lake env lean /tmp/qrelent_axioms.lean
lake exe lint_all
./scripts/lint-style.sh
```

Expected axiom output:

```text
qRelativeEnt_joint_convexity depends on axioms:
[propext, Classical.choice, Quot.sound]
```

No `sorryAx`.

The packet also ships a one-command verifier (`verify.sh`) that runs the statement
check plus the above. It compares the statement against `origin/master` by default; if
your base remote is not `origin`, run it as
`BASE_REF=<your-master-remote>/master ./verify.sh <physlib-checkout>`.

## Scope

This is a single-concept PR: it closes one open `sorry` for joint convexity of `𝐃`. The
change is +192/−15 (three files), so it is in the large-PR band, but it does not split
naturally into separate PRs. The supporting reasoning is already factored into small
single-purpose lemmas, and the one genuinely reusable analytic estimate is a private
helper lemma.

## AI assistance

Developed with AI assistance. I have reviewed the theorem statement, every proof step,
and the supporting references, and I take responsibility for the submission under
`AI-POLICY.md`.

## Supporting material (optional)

A self-contained review packet — conventional-maths write-up, a one-command verifier,
recorded evidence, and paper↔Lean fidelity checks — is public at
<https://github.com/phaynes/submissions/tree/qrelent-pr-v1/PhysLean/submitted/Proof-Joint-convexity-of-the-Umegaki-quantum-relative-entropy>.
It is optional context; the intended review path is the code diff and the Lean checks
above.

### CODE REVIEW

**Comment by phaynes** [comment]
A note on the two commits: the first commit is the initial proof; the second is a
refactor of it — reducing the number of `have` statements and extracting the mixture
plumbing, the α→1⁺ continuity step, and the `ENNReal.ofReal` identity into small named
lemmas, plus a `Mixable.mix_one` simp lemma. The net diff is the refactored state. Happy
to squash to a single commit if you'd prefer a cleaner history for merge.

File: QuantumInfo/Entropy/DPI.lean [hunk 1]
```diff
@@ -1402,3 +1402,194 @@ theorem sandwichedRenyiEntropy_DPI (hα : 1 ≤ α) (ρ σ : MState d₁) (Φ :
...
+`D̃_α(ρ‖σ) = log (Q̃_α(ρ‖σ)) / (α - 1) ≤ (Q̃_α(ρ‖σ) - 1) / (α - 1)`, and the difference
+quotient on the right is jointly convex in `(ρ, σ)` because `Q̃_α` is. As `α → 1⁺`, the
+left-hand side tends to `𝐃(ρ‖σ)` (by `sandwichedRelRentropy.continuousOn`), and the
+difference quotient tends to `𝐃(ρ‖σ)` as well (since `Q̃_α = exp ((α - 1) D̃_α)` and
+`exp x ≤ 1 + x + x²` for `|x| ≤ 1`), so the convex combination passes to the limit.
+-/
+
+/-- As `α → 1⁺`, the sandwiched Rényi relative entropy `D̃_α(ρ‖σ)` tends to the relative
+entropy `𝐃(ρ‖σ) = D̃_1(ρ‖σ)`, by continuity of `α ↦ D̃_α` on `(0, ∞)`. -/
+private lemma sandwichedRelRentropy_tendsto_qRelativeEnt (ρ σ : MState d) :
```
Comment (jstoobysmith) [inline QuantumInfo/Entropy/DPI.lean]: In an ideal world I think we would have a file dedicated to `sandwichedRelRentropy` and this would go in there, the Relative.lean file is getting a bit long, as is this one.

Comment (jstoobysmith) [reply QuantumInfo/Entropy/DPI.lean]: Also - I see no reason why this needs to be private.

File: QuantumInfo/Entropy/DPI.lean [hunk 2]
```diff
@@ -1402,3 +1402,194 @@ theorem sandwichedRenyiEntropy_DPI (hα : 1 ≤ α) (ρ σ : MState d₁) (Φ :
...
+/-- A binary mixture preserves the support condition (kernel inclusion) of its
+components. -/
+private lemma ker_mix_le (p : Prob) {ρ₁ ρ₂ σ₁ σ₂ : MState d}
+    (hker₁ : σ₁.M.ker ≤ ρ₁.M.ker) (hker₂ : σ₂.M.ker ≤ ρ₂.M.ker) :
+    (p [σ₁ ↔ σ₂]).M.ker ≤ (p [ρ₁ ↔ ρ₂]).M.ker := by
+  rw [mix_M_eq_weighted_sum, mix_M_eq_weighted_sum]
+  exact HermitianMat.ker_weighted_sum_le _
+    (by intro i; fin_cases i <;> simp) _ _
+    (fun i => (![ρ₁, ρ₂] i).nonneg) (fun i => (![σ₁, σ₂] i).nonneg)
+    (by intro i; fin_cases i <;> [exact hker₁; exact hker₂])
```
Comment (jstoobysmith) [inline QuantumInfo/Entropy/DPI.lean:1500]: Maybe in the ClassicalInfo.Prob file? Not sure though.

File: QuantumInfo/Entropy/DPI.lean [hunk 3]
```diff
@@ -1402,3 +1402,194 @@ theorem sandwichedRenyiEntropy_DPI (hα : 1 ≤ α) (ρ σ : MState d₁) (Φ :
...
+    ![(p : ℝ), 1 - (p : ℝ)]
+    (by intro i; fin_cases i <;> simp)
+    (by simp [Fin.sum_univ_two]) ![ρ₁, ρ₂] ![σ₁, σ₂]
+    (p [ρ₁ ↔ ρ₂]) (p [σ₁ ↔ σ₂])
+    (mix_M_eq_weighted_sum p ρ₁ ρ₂) (mix_M_eq_weighted_sum p σ₁ σ₂)
+    (by intro i; fin_cases i <;> [exact hker₁; exact hker₂])
+
+/-- `ENNReal.ofReal` of a `Prob`-weighted combination of `toReal`s of finite quantities
+is the corresponding `ENNReal`-valued combination. -/
+private lemma ofReal_prob_mix_toReal (p : Prob) {x y : ENNReal} (hx : x ≠ ⊤) (hy : y ≠ ⊤) :
```
Comment (jstoobysmith) [inline QuantumInfo/Entropy/DPI.lean]: Maybe this one is better as a have statement as I can't see it been used for anything else (unless you can)?

File: QuantumInfo/Entropy/DPI.lean (hunk 1 above)
Comment (phaynes) [reply QuantumInfo/Entropy/DPI.lean]: Agree on the sentiment above, but it turns out to be ~ a 2000 line refactor. Maybe do as a discrete PR?

File: QuantumInfo/Entropy/DPI.lean (hunk 3 above)
Comment (phaynes) [reply QuantumInfo/Entropy/DPI.lean]: An over-refactor - will revert.

File: QuantumInfo/Entropy/DPI.lean (hunk 1 above)
Comment (jstoobysmith) [reply QuantumInfo/Entropy/DPI.lean]: Yep - let's leave it for a future PR

File: QuantumInfo/Entropy/DPI.lean (hunk 2 above)
Comment (jstoobysmith) [reply QuantumInfo/Entropy/DPI.lean:1500]: @phaynes what are your thoughts here?

Comment (phaynes) [reply QuantumInfo/Entropy/DPI.lean:1500]: I didn't move it to Prob.lean because it references MState and HermitianMat.ker_weighted_sum_le, whereas Prob.lean is a foundational Mathlib-only file that MState is built on top of.  Putting it there would force Prob.lean to import the MState/HermitianMat layer — inverting the dependency direction and creating an import cycle. It reads as an MState-layer fact, so I've kept it here; happy to relocate it within that layer if you'd prefer a different spot.

**Review by jstoobysmith — APPROVED** [review]
Looks good - approved. Will merge shortly.
